US03976700
Acetone under the reaction conditions forms mesityl oxide, and this then reacts with the prenyl chloride to produce the above isomers; in the same manner, acetone reacts with prenyl chloride to produce methyl heptenone.

reactant | mesityl oxide | O=C(C)C=C(C)C | C6H10O
reactant | prenyl chloride | C(C=C(C)C)Cl | C5H9Cl
solvent | acetone | CC(=O)C | C3H6O
product | methyl heptenone | CCC(C=CCCC)=O | C8H14O
